US08536160B2
17,17-Bis(ethylendioxy)-6α-(2-hydroxyethyl)androstane was prepared in 96% yield from 3,3:17,17-bis(ethylendioxy)-6α-vinylandrostane by the procedure described above for the preparation of 3,3:17,17-bis(ethylendioxy)-6α-hydroxymethyl-androstane (Prepn. 14). The crude was purified by flash chromatography (SiO2, n-hexane/acetone 80/20). 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 4.25 (1H, t), 3.86-3.70 (8H, m), 3.35 (2H, m), 1.91-0.42 (23H, m), 0.75 (3H, s), 0.74 (3H, s).

reactant | 17,17-bis(ethylendioxy)-6α-vinylandrostane | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1C[C@@H](C3CCCC[C@]3(C)[C@H]1CC4)C=C | C25H38O4
reactant | 17,17-bis(ethylendioxy)-6α-hydroxymethyl-androstane | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1C[C@@H](C3CCCC[C@]3(C)[C@H]1CC4)CO | C24H38O5
product | 17,17-Bis(ethylendioxy)-6α-(2-hydroxyethyl)androstane | 96% yield | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1C[C@@H](C3CCCC[C@]3(C)[C@H]1CC4)CCO | C25H40O5
